US08440665B2
Isopropyl 2-fluoro-5-nitrobenzoate (2.86 g, 12.6 mmol) was dissolved in glacial acetic acid (40 ml), and zinc dust (8.12 g, 126 mmol)was added as a solid with stirring under nitrogen. The mixture was stirred for 1 hour at room temperature, then the zinc filtered off and discarded. The solvent was removed under reduced pressure, and the residue was purified by column chromatography (0 to 75% ethyl acetate in hexanes) to afford isopropyl 5-amino-2-fluorobenzoate. (2.48 g, 12.6 mmol). 100% yield. 199 (M+1).

reactant | Isopropyl 2-fluoro-5-nitrobenzoate | 12.6 mmol, 2.86 g | FC1=C(C(=O)OC(C)C)C=C(C=C1)[N+](=O)[O-] | C10H10FNO4
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 126 mmol, 8.12 g | [Zn] | Zn
product | isopropyl 5-amino-2-fluorobenzoate | 100% yield | NC=1C=CC(=C(C(=O)OC(C)C)C1)F | C10H12FNO2
